US04640928
Production of 6-Cyano-3,4-dihydro-2,2-dimethyl-trans-4-(2-oxo-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol
6-Cyano-3,4-dihyro-2,2-dimethyl-trans-4-(2-hydroxy-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol (5 mg), dissolved in methanol water (1 ml) was treated with an excess of sodium periodate with stirring during 15 hours at room temperature. Evaporation of solvents and extraction by ethyl acetate gave material having identical thin layer characteristics when applied to silica gel plates developed in either chloroform-methanol (15:1) or heptane-ethyl acetate-triethylamine and infra red spectrum to the title compound reported in Example 1 of U.S. Pat. No. 4,446,113.

reactant | 6-Cyano-3,4-dihyro-2,2-dimethyl-trans-4-(2-hydroxy-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol | 5 mg | C(#N)C1=CC2=C(OC([C@H]([C@@H]2N2C(CCC2)O)O)(C)C)C=C1 | C16H20N2O3
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | heptane ethyl acetate triethylamine | CCCCCCC.C(C)(=O)OCC.C(C)N(CC)CC
solvent | methanol water | 1 ml | O.CO
product | 6-Cyano-3,4-dihydro-2,2-dimethyl-trans-4-(2-oxo-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol | C(#N)C1=CC2=C(OC([C@H]([C@@H]2N2C(CCC2)=O)O)(C)C)C=C1 | C16H18N2O3
